US04070373
11-(cyanomethyl)-6,11-dihydro-dibenzo-[b,e]-oxepine
A saturated mercury II chloride solution is prepared in 150 ml. dry ether. After the addition of 12 g. aluminium fillings, one leaves the solution to stand for 3 - 5 minutes and, after shaking up twice, decants. The aluminium amalgamated in this manner is now washed several times with absolute ether and finally covered with 300 ml. ether in a stirring apparatus. Subsequently, one mixes with 12 g. 11-(cyanomethylene)-6,11-dihydro-dibenzo-[b,e]-oxepine (0.051 mol), prepared according to C, and adds 12 ml. water thereto in the course of 5 hours, with vigorous stirring. The reaction mixture is then left to stand overnight. The inorganic components are filtered off with suction, the filtrate evaporated in a vacuum and one obtains 11.5 g. (95.5% of theory) of practically pure reduction product of m.p. 85° - 86°. After recrystallising once from a petroleum fraction of m.p. 100° - 140° C., the melting point increases to 87° - 89°. The UV-spectrum shows the absence of the cross-conjugated double bond.

reactant | 11-(cyanomethylene)-6,11-dihydro-dibenzo-[b,e]-oxepine | 0.051 mol | C(#N)C=C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C16H11NO
solvent | water | O | H2O
product | 11-(cyanomethyl)-6,11-dihydro-dibenzo-[b,e]-oxepine | C(#N)CC1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C16H13NO
